US05998433
c) Synthesis of N-methyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N-tert-Butoxycarbonyl-N-methyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.127 g (0.268 mmol) was dissolved in 5 ml of methanol; 1 ml of concentrated hydrochloric acid was added, followed by stirring for 30 minutes. This solution was concentrated to yield the desired product.

reactant | N-tert-Butoxycarbonyl-N-methyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.268 mmol, 0.127 g | C(C)(C)(C)OC(=O)N(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)O1 | C28H30N2O5
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | N-methyl-[6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CNCC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=CC=C2)=O)=O)O1 | InChI=1S/C23H22N2O3.ClH/c1-24-14-20-13-19-11-12-25(15-21(19)28-20)23(27)18-9-7-17(8-10-18)22(26)16-5-3-2-4-6-16;/h2-10,13,24H,11-12,14-15H2,1H3;1H
